US07718693B2
Crude 1-(2-methyl-2-propen-1-yl)-5-oxoproline (˜0.075 g, ˜0.41 mmol, prepared as described below) was dissolved in dichloromethane (5 ml) and to this was added 1-Hydroxybenzotriazole (0.061 g, 0.45 mmol), [(2-chloro-4-fluorophenyl)methyl]amine (0.068 g, 0.43 mmol), and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.087 g, 0.45 mmol). The mixture was then stirred at room temperature for 24 hrs. The mixture was diluted with more dichloromethane then washed sequentially with 2M aqueous hydrogen chloride and saturated aqueous sodium hydrogen carbonate. The organic layer was filtered through a phase separator and evaporated to give a brown residue which was purified by mass-directed automated HPLC to give pure N-[(2-chloro-4-fluorophenyl)methyl]-1-(2-methyl-2-propen-1-yl)-5-oxoprolinamide (0.018 g) as a white solid. LC/MS [M+H]+=325.1, retention time=2.40 minutes.

reactant | 1-(2-methyl-2-propen-1-yl)-5-oxoproline | ˜0.41 mmol, ˜0.075 g | CC(CN1[C@H](C(=O)O)CCC1=O)=C | C9H13NO3
reactant | 1-Hydroxybenzotriazole | 0.45 mmol, 0.061 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | [(2-chloro-4-fluorophenyl)methyl]amine | 0.43 mmol, 0.068 g | ClC1=C(C=CC(=C1)F)CN | C7H7ClFN
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.45 mmol, 0.087 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[(2-chloro-4-fluorophenyl)methyl]-1-(2-methyl-2-propen-1-yl)-5-oxoprolinamide | 0.018 g | ClC1=C(C=CC(=C1)F)CNC([C@H]1N(C(CC1)=O)CC(=C)C)=O | C16H18ClFN2O2
